F112 combined capacitor cold inrush bound; external 4400uF assumed
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
.model J100GBPC25 D(Is=3e-9 N=1.5 Rs=.0192 Cjo=180p Tt=4u BV=600 Ibv=10u)
Vsec a b SIN(0 79.97000000000001 50 0 0 90)
Rwind a aa 1.2
Vf aa ab 0
D1 ab dc J100GBPC25
D2 b dc J100GBPC25
D3 0 ab J100GBPC25
D4 0 b J100GBPC25
Csum dc 0 10080u
.options method=gear reltol=.001 minbreak=1p klu
.tran 2u .1 0 2u uic
.control
run
let sim_end=time[length(time)-1]
print sim_end
let isq=i(Vf)*i(Vf)
let iabs=abs(i(Vf))
meas tran i2t INTEG isq from=0 to=.1
meas tran peak MAX iabs
.endc
.end
