G.I. string cold start through F106 and the triac: 18 x #44 lamps (6.3 V / 0.25 A: 2.5 R cold -> 25 R hot, thermal tau ~60 ms) on the 6.8 VAC winding at the STTNG-measured 7.87 VAC unloaded (11.1 V peak, 0.05 R per leg), F106 = Littelfuse 239 5 A S.B. 5x20 mm (nominal melting I2t 302.8 A2s), BTA16-600C (Vt0 0.85 V / Rd 25 mOhm, ITSM 160 A, I2t 128 A2s) in the return leg (MT1 to GND_REF), gate held from the voltage peak at 4.17 ms (worst-case first firing, level 0 = full on). Measures the inrush peak, the I2t through fuse and triac, the steady rms string current against the 5 A fuse and the triac dissipation.
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
VCC vcc 0 5
* 18 #44 lamps in parallel, one thermal state (identical lamps): I = 18 x v / (2.5 (1 + 9 th)), heating per lamp
.subckt LAMP18 a b
Blamp a b I = 18 * v(a,b) / (2.5 * (1 + 9 * max(v(th), 0)))
Bheat 0 th I = v(a,b) * v(a,b) / (2.5 * (1 + 9 * max(v(th), 0)))
Cth th 0 0.095
Rth th 0 0.63
.ends
Vac ac0 0 SIN(0 12.21 50)
Rw ac0 ac 0.1
Vf106 ac acf 0
XS acf mt2 LAMP18
Vmt mt2 mt2i 0
Btri mt2i 0 I = ( max((abs(i(Vg)) > 0.05), (v(on) > 0.5)) > 0.5 ) ? ( (v(mt2i) > 0) ? max(v(mt2i) - 0.85, 0) / 0.05 : min(v(mt2i) + 0.85, 0) / 0.05 ) : v(mt2i) * 1e-6
Bon onr 0 V = (abs(i(Vmt)) > 0.05) ? 1 : 0
Ron onr on 1
Con on 0 0.5u
* gate drive: latch bit held from 4.17 ms (74HCT574 Q 4.6 V / 40 R -> 470 R -> MMBT4401 -> 27 R)
VL latch 0 PULSE(0 4.6 4.17m 20n 20n 1 2)
RL latch a 40
Rb a b 470
Rpd b 0 10k
Q1 vcc b e J100Q2222
Vg e eg 0
R27 eg g 27
Dg g 0 DGATE
Rgk g 0 200
.model DGATE D(Is=1e-9 n=2 Rs=5)

.options method=gear reltol=.001 minbreak=1p klu
.tran 5u 1 0 5u
.control
run
let sim_end=time[length(time)-1]
print sim_end
let iabs=abs(i(Vf106))
let ptri=v(mt2i)*i(Vmt)
let isq=iabs*iabs
meas tran rms RMS i(Vf106) from=.8 to=1
meas tran peak MAX iabs
meas tran power AVG ptri from=.8 to=1
meas tran i2t INTEG isq from=0 to=.03
let tj=50+power*13.875
print tj
.endc
.end
